US07235566B2
Intermediate A1 4-(4-Trifluoromethylphenyl)benzaldehyde
A 3 L 3-neck flask fitted with top stirrer, condenser and argon inlet/outlet was charged with 4-trifluoromethybenzene boronic acid (90.0 g, 0.474 mol), 4-bromobenzaldehyde (83.29 g, 0.450 mol) and 1,2-dimethoxyethane (1.3 L), followed by 2M aqueous sodium carbonate (474 ml) and palladium acetate (5.32 g, 0.0237 mol). The stirring mixture was heated to reflux for 4 h under argon, then allowed to cool to room temperature over 16 h. The reaction mixture was filtered through hyflo. The filtrate was diluted with saturated brine and extracted 3× with ethyl acetate. The combined extracts were dried over magnesium sulfate and filtered through hyflo, giving a clear orange filtrate which was evaporated to a solid (ca. 120 g, crude). Flash chromatography (silica, 10–50% dichloromethane in pet. ether, 10% steps) gave a white solid which dissolved in hexane (500 ml) on boiling. Crystallisation, finally in ice, gave the title compound as a solid which was filtered off, washed with ice cold hexane and dried, (86.33 g, 77%). 1H-NMR (CDCl3) δ 7.77–8.03 (8H, m), 10.09 (1H, s).

reactant | 4-trifluoromethybenzene boronic acid | 0.474 mol, 90.0 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-bromobenzaldehyde | 0.450 mol, 83.29 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1,2-dimethoxyethane | 1.3 L | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 474 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | 500 ml | CCCCCC | C6H14
catalyst | palladium acetate | 0.0237 mol, 5.32 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-Trifluoromethylphenyl)benzaldehyde | FC(C1=CC=C(C=C1)C1=CC=C(C=O)C=C1)(F)F | C14H9F3O
